US08912180B2
To a solution of rel-(1R,3R)-3-({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}oxy)cyclopentanamine (10.8 mg), glycolic acid (1.9 mg), and 1-hydroxybenzotriazole (3.4 mg) in N,N-dimethylformamide (1.0 mL) was added a PS-Carbodiimide (Biotage Inc.) (100 mg), followed by stirring at room temperature overnight. To the reaction solution were added a PS-Isocyanate (Biotage Inc.) (50 mg) and a MP-Carbonate (Biotage Inc.) (50 mg), followed by stirring for four hours, and the insoluble matter was removed by filtration. The filtrate was concentrated under reduced pressure to obtain rel-N-[(1R,3R)-3-({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}oxy)cyclopentyl]-2-hydroxyacetamide (7.2 mg).

reactant | rel-(1R,3R)-3-({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}oxy)cyclopentanamine | 10.8 mg | FC(C1=NC2=C(N1C1=CC(=NC(=N1)N1CCOCC1)O[C@H]1C[C@@H](CC1)N)C=CC=C2)F | C21H24F2N6O2
reactant | glycolic acid | 1.9 mg | C(CO)(=O)O | C2H4O3
reactant | 1-hydroxybenzotriazole | 3.4 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | Carbodiimide | 100 mg | N=C=N | CH2N2
reactant | Isocyanate | 50 mg | [N-]=C=O
reactant | Carbonate | 50 mg | C([O-])([O-])=O
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | rel-N-[(1R,3R)-3-({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}oxy)cyclopentyl]-2-hydroxyacetamide | 7.2 mg | FC(C1=NC2=C(N1C1=CC(=NC(=N1)N1CCOCC1)O[C@H]1C[C@@H](CC1)NC(CO)=O)C=CC=C2)F | C23H26F2N6O4
